data/mechanism_extracts/JACS/10.1021_ja00184a056.json
{"doi": "10.1021_ja00184a056", "journal": "JACS", "is_review": false, "rxn_class_summary": "Electrochemical reductive double cyclization of β-dicarbonyl enol phosphates to bicyclo[n.1.0]alkanes (cyclopropane-fused carbocycles)", "mechanism_family": ["radical_cathodic", "radical_anion", "carbene", "cation_initiated"], "electrochemical_role": "Cathodic reduction of β-dicarbonyl enol phosphate substrate 1; one-electron reduction gives radical anion 3, two-electron reduction gives vinyl anion 4 (resonance form of singlet carbene 4a), both with loss of diethyl phosphate anion", "key_intermediates": [{"name": "radical anion 3a/3b (from one-electron reduction of enol phosphate, loss of phosphate)", "smiles": null, "role": "reactive"}, {"name": "vinyl anion 4b / singlet carbene 4a (from two-electron reduction)", "smiles": null, "role": "reactive"}, {"name": "monocyclized radical 5 (first cyclization product of 3a)", "smiles": null, "role": "transient"}, {"name": "bicyclic radical 6 (second cyclization, cyclopropane-containing)", "smiles": null, "role": "transient"}, {"name": "bicyclic carbanion/anion 8 prior to protonation", "smiles": null, "role": "transient"}, {"name": "final bicyclo[n.1.0]alkane product 7 (e.g., 2)", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode reduces β-dicarbonyl enol phosphate 1 by one electron with loss of diethyl phosphate to give vinyl radical 3a; intramolecular radical cyclization gives monocyclic radical 5, a second radical cyclization forms bicyclic radical 6, which is further reduced at the cathode to anion 8 and protonated to deliver the bicyclo[n.1.0]alkane 7. A competing pathway via two-electron reduction to singlet carbene 4a (≡ vinyl anion 4b) is excluded by retention of alkene stereochemistry in probe substrates.", "rate_determining_step": null, "probe_reagents": [{"name": "cis/trans-disubstituted alkene substrates (examples 6 and 7 of Table I)", "smiles": null, "purpose": "intermediate_trap", "observation": "Double cyclization proceeded with retention of alkene stereochemistry, excluding free singlet carbene (3a/4a) as the reactive intermediate; an intermediate that permits isomerization (e.g., free vinyl anion) is also ruled out since complete equilibration does not occur"}, {"name": "ethyl carbonate analogue of enol phosphate (example 5 substrate)", "smiles": null, "purpose": "redox_probe", "observation": "Under identical electrochemical conditions gave 43% of the same bicyclic product, showing the leaving group can be varied and supporting a reductive C–O cleavage step"}], "evidence_types_used": ["stoichiometric_intermediate", "product_isotope_distribution", "other"], "evidence_strength": "medium", "notes": "Authors explicitly state mechanism is complex and not rigorously defined. Favored pathway is stepwise radical cyclization from radical anion 3a → 5 → 6 → reduction to 7. Alternatives considered and disfavored: (i) singlet carbene addition via 3a or 4a (excluded by stereoretention in examples 6/7); (ii) two-step anionic Michael route via vinyl anion 4b → 8 → intramolecular Michael; (iii) direct H-atom abstraction by 6 to give 2; (iv) reduction of 5 to 8 prior to second cyclization (disfavored due to short lifetime/ring closure outcompeting bond rotation). Loss of stereoselectivity in final protonation in example 8 indicates protonation of carbanion 8 is hindered from both cyclopentyl faces. Footnote 13 notes vinyl anions like 4b do not add intramolecularly to unactivated 1,2-disubstituted alkenes, further arguing against the anionic pathway."}
